US09233956B2
Step A: N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-3-fluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}amine (500 mg, 1.313 mmol) and 3-fluorobenzenesulfonyl chloride (0.210 mL, 1.575 mmol), the title compound was obtained as an yellow foam (690 mg, 98% yield).

reactant | {3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}amine | 1.313 mmol, 500 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)N)F | C17H15ClF2N4S
reactant | 3-fluorobenzenesulfonyl chloride | 1.575 mmol, 0.210 mL | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-3-fluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=CC(=CC=C1)F)F | C23H18ClF3N4O2S2
